US08071807B2
{3-[4-Nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester (0.920 g, 1.63 mmol), (trimethylsilyl)acetylene (0.34 mL, 2.45 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.1155, 0.16 mmol), and copper iodide (0.031 g, 0.16 mmol) were combined in triethylamine (8 mL) and degassed for 5 minutes. The reaction was heated for 8 hours, and then worked-up with CH2Cl2 and H2O. The crude material was purified by silica gel chromatography to give {3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trimethylsilanylethynyl-phenyl}-acetic acid methyl ester.

reactant | {3-[4-Nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester | 1.63 mmol, 0.920 g | COC(CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C19H15F6NO8S2
reactant | (trimethylsilyl)acetylene | 2.45 mmol, 0.34 mL | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 8 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.16 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.16 mmol, 0.031 g | [Cu](I)I
product | {3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trimethylsilanylethynyl-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)C#C[Si](C)(C)C)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C23H24F3NO5SSi
